US04596829
A mixture of 7-[2-(2-formamido-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (3.6 g) in methanol (36 ml) and conc. hydrochloric acid (1.1 g) was stirred for 3.0 hours at ambient temperature. The reaction mixture was added to water and ethyl acetate, and adjusted to pH 7.5 with a saturated aqueous solution of sodium bicarbonate. The aqueous layer was separated and adjusted to pH 3.0 with 10% aqueous hydrochloric acid, and then extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and evaporated to give 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.62 g).

reactant | 7-[2-(2-formamido-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.6 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C)Cl | C22H22ClN7O8S4
reactant | hydrochloric acid | 1.1 g | Cl | ClH
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 36 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.62 g | NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C)Cl | C21H22ClN7O7S4
